US08133909B2
(R)-2-Hydroxy-2-phenyl-N-p-tolyl-N-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-acetamide
In analogy to example 7, steps 1 and 2, p-tolyl-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-amine (200 mg, 0.714 mmol) was coupled to benzoylformic acid (112 mg, 0.746 mmol) and reduced to give the title compound (97 mg, 32.2%) MS m/e: 415.1 [M+H]+ after separation on a chiral column.

reactant | p-tolyl-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-amine | 0.714 mmol, 200 mg | C1(=CC=C(C=C1)NCCC=1C=NC(=CC1)C(F)(F)F)C | C15H15F3N2
reactant | benzoylformic acid | 0.746 mmol, 112 mg | C(C1=CC=CC=C1)(=O)C(=O)O | C8H6O3
product | (R)-2-Hydroxy-2-phenyl-N-p-tolyl-N-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-acetamide | 97 mg, 32.2% | O[C@@H](C(=O)N(CCC=1C=NC(=CC1)C(F)(F)F)C1=CC=C(C=C1)C)C1=CC=CC=C1 | C23H21F3N2O2
